US06004478
12.0 g of potassium t-butoxide was added to a mixture of 62 g of 3,5-difluoro-4-(t-butyldimethylsiloxy)benzyltriphenylphosphonium bromide and 200 ml of THF to obtain an orange-colored ylide solution. A mixture of 35.0 g of 4-(4-n-propyl-4-phenyl-4-silacyclohexyl)cyclohexane carbaldehyde in 50 ml of THF was added to the above solution. The mixture was agitated at room temperature for 2 hours, after which it was poured into iced water, followed by extraction with ethyl acetate. The ethyl acetate solution was washed, dried and concentrated by a usual manner. The resultant residue was added to n-hexane and the resultant triphenylphosphine oxide crystals were removed by filtration. The resultant filtrate was concentrated. The residue was purified through silica gel chromatography to obtain 4-(4-(2-(3,5-difluoro-4-(t-butyldimethylsiloxy)phenyl)ethenyl)cyclohexyl)-1-propyl-1-phenyl-1-silacyclohexane. This compound was dissolved in 200 ml of ethyl acetate and hydrogenated in the presence of 200 mg of a platinum oxide catalyst at a hydrogen pressure of 0.1 MPa. After consumption of the theoretical amount of hydrogen, the catalyst was removed by filtration. The resultant filtrate was concentrated. 100 ml of a THF solution of 1 mol/liter of tetrabutylammonium fluoride was added to the concentrate, followed by agitation at room temperature for 3 hours. The reaction mixture was poured into 10% hydrochloric acid, followed by ordinary washing, drying and concentration. The resultant residue was purified through silica gel chromatography. The purified compound was reacted with 24 g of sodium hydride in 12,3-dimethyl-2-imidazolidinone, to which 15 g of 1-bromo-2,2-difluoroethane was added, followed by agitation at 50° C. for 12 hours. The resultant mixture was washed with brine, dried and concentrated by a usual manner. A methylene chloride solution of 1 mol/liter of iodine monochloride was added to the resultant residue and agitated for 1 hour. Thereafter, 10 ml of methanol and 30 ml of triethylamine were added to the solution. After agitation for 1 hour, the mixture was washed, dried and concentrated by a usual manner. The resultant residue was dissolved in 100 ml of THF, to which a solution of 10.0 g of aluminium lithium hydride in 100 ml of THF was added. The reaction mixture was refluxed under agitation for 1 hour. Subsequently, the mixture was poured into 200 ml of 5% hydrochloric acid and extracted with ethyl acetate. After washing, drying and concentration by a usual manner, the extract was purified through silica gel chromatography and then recrystallized to obtain 15.6 g of an intended trans isomer.

reactant | potassium t-butoxide | 12.0 g | CC(C)([O-])C.[K+]
reactant | 3,5-difluoro-4-(t-butyldimethylsiloxy)benzyltriphenylphosphonium bromide | 62 g | [Br-].FC=1C=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C(C1O[Si](C)(C)C(C)(C)C)F
reactant | 4-(4-n-propyl-4-phenyl-4-silacyclohexyl)cyclohexane carbaldehyde | 35.0 g | C(CC)[Si]1(CCC(CC1)C1CCC(CC1)C=O)C1=CC=CC=C1 | C21H32OSi
reactant | water | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 4-(4-(2-(3,5-difluoro-4-(t-butyldimethylsiloxy)phenyl)ethenyl)cyclohexyl)-1-propyl-1-phenyl-1-silacyclohexane | FC=1C=C(C=C(C1O[Si](C)(C)C(C)(C)C)F)C=CC1CCC(CC1)C1CC[Si](CC1)(C1=CC=CC=C1)CCC | C34H50F2OSi2
